US06071909
Step 1: 1-(3-Hydroxymethylphenyl)-5-methylbenzimidazole
1-(3-Carboxyphenyl)-5-methylbenzimidazole (2 g, 0.079 mM) was dissolved in dry tetrahydrofuran (100 ml) and cooled to 0° C. Lithium aluminium hydride (7.9 ml, 1.0 M solution) was added dropwise over 10 minutes. After complete addition the reaction was heated to reflux for 4 hours. The reaction was cooled and quenched by addition of water (2 ml) and 2N sodium hydroxide (4 ml). The reaction was diluted with ethyl acetate and filtered through hyflo, washing with ethyl acetate. Dried over magnesium sulphate and evaporated (1.2 g). MS M+ 239.

reactant | 1-(3-Carboxyphenyl)-5-methylbenzimidazole | 0.079 mM, 2 g | C(=O)(O)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C | C15H12N2O2
reactant | Lithium aluminium hydride | 1.0 M, 7.9 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(3-Hydroxymethylphenyl)-5-methylbenzimidazole | OCC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C | C15H14N2O
